US09102632B2
10.5 g (75 mM) of 1-ethyl-3-hydroxypyrazine-2(1H)-one and 23.1 g (80.5 mM) of phosphorous oxybromide in 75 ml of dichloroethane were refluxed under stirring for 2 h. The reaction mixture was then neutralized to pH 7-8 with a saturated aqueous solution of sodium carbonate, while maintaining the temperature at 10° C. The reaction mixture was then stirred at room temperature for 1 h. Water was added and the organic phase was extracted with dichloromethane. The combined organic layer was washed with water, dried on anhydrous sodium sulfate and the solvent was removed under vacuum. The compound was further purified by silica gel column chromatography, using dichloromethane as eluant, to give 6.1 g of 3-bromo-1-ethylpyrazin-2(1H)-one as a solid. Yield: 40.2%.

reactant | 1-ethyl-3-hydroxypyrazine-2(1H)-one | 75 mM, 10.5 g | C(C)N1C(C(=NC=C1)O)=O | C6H8N2O2
reactant | phosphorous oxybromide | 80.5 mM, 23.1 g | P(=O)(Br)(Br)Br | Br3OP
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | Water | O | H2O
solvent | dichloroethane | 75 ml | ClC(C)Cl | C2H4Cl2
product | 3-bromo-1-ethylpyrazin-2(1H)-one | 6.1 g, Yield: 40.2% | BrC=1C(N(C=CN1)CC)=O | C6H7BrN2O
